US07915281B2
Under a nitrogen atmosphere, ethoxyacetyl chloride (3.5 g, 28 mmol) was added dropwise to a solution of 2-chloro-N4-{2-[3-(4-fluorophenyl)isoxazol-5-yl]ethyl}quinoline-3,4-diamine (9.0 g, 23.5 mmol) and anhydrous triethylamine (10.0 mL, 35.3 mmol) in anhydrous dichloromethane (75 mL) at 6° C. After the reaction was stirred for 30 minutes, an analysis by HPLC indicated the presence of starting material, and additional ethoxyacetyl chloride (2.0 g) was added. After the reaction was stirred for another 30 minutes, it was still incomplete, and additional ethoxyacetyl chloride (2.0 g) was added. The stirring was continued for an additional 30 minutes, and the work-up procedure described in Part A of Example 19 was followed to provide 11.12 g of N-[2-chloro-4-({2-[3-(4-fluorophenyl)isoxazol-5-yl]ethyl}amino)quinolin-3-yl]-2-ethoxyacetamide as a white solid.

reactant | ethoxyacetyl chloride | 28 mmol, 3.5 g | C(C)OCC(=O)Cl | C4H7ClO2
reactant | 2-chloro-N4-{2-[3-(4-fluorophenyl)isoxazol-5-yl]ethyl}quinoline-3,4-diamine | 23.5 mmol, 9.0 g | ClC1=NC2=CC=CC=C2C(=C1N)NCCC1=CC(=NO1)C1=CC=C(C=C1)F | C20H16ClFN4O
reactant | triethylamine | 35.3 mmol, 10.0 mL | C(C)N(CC)CC | C6H15N
reactant | ethoxyacetyl chloride | 2.0 g | C(C)OCC(=O)Cl | C4H7ClO2
reactant | ethoxyacetyl chloride | 2.0 g | C(C)OCC(=O)Cl | C4H7ClO2
solvent | dichloromethane | 75 mL | ClCCl | CH2Cl2
product | N-[2-chloro-4-({2-[3-(4-fluorophenyl)isoxazol-5-yl]ethyl}amino)quinolin-3-yl]-2-ethoxyacetamide | 11.12 g | ClC1=NC2=CC=CC=C2C(=C1NC(COCC)=O)NCCC1=CC(=NO1)C1=CC=C(C=C1)F | C24H22ClFN4O3
